US05506267
[4-(6,7,bis(palmitoyloxy)-4-thiaheptanoyl-amino )benzenesulfonyl)glutamic acid di-t-butyl ester
To a solution of 4-aminobenzenesulfonylglutamic acid di-t-butyl ester (189 mg) in pyridine (2.3 ml), phosphorus trichloride (0.023 ml) was added, followed by stirring at room temperature for 2 hours. To the mixture, 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid as obtained in Reference Example 4 (150 mg) was added, followed by stirring at room temperature for 24 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to yield the title compound (213 mg, yield 89%) as a wax-like substance.

reactant | 4-aminobenzenesulfonylglutamic acid di-t-butyl ester | 189 mg | C(C)(C)(C)OC([C@@H](NS(=O)(=O)C1=CC=C(C=C1)N)CCC(=O)OC(C)(C)C)=O | C19H30N2O6S
reactant | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C38H72O6S
reactant | water | O | H2O
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
solvent | phosphorus trichloride | 0.023 ml | P(Cl)(Cl)Cl | Cl3P
product | [4-(6,7,bis(palmitoyloxy)-4-thiaheptanoyl-amino )benzenesulfonyl)glutamic acid di-t-butyl ester | 213 mg, yield 89% | C(C)(C)(C)OC([C@@H](NS(=O)(=O)C1=CC=C(C=C1)NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)CCC(=O)OC(C)(C)C)=O | C57H100N2O11S2
